US07691882B2
2-Amino-6-chloro-nicotinic acid ethyl ester
To ethanol (20 mL) were added concentrated sulfuric acid (10 mL) and 2-amino-6-chloro-nicotinic acid (6.3 g, 27 mmol, purity: 75%) described in Manufacturing Example 26-1-1 on an ice bath, which was stirred overnight at 65° C. The reaction mixture was gradually cooled, after which a sodium hydrogencarbonate aqueous solution was added to neutralize the mixture. The precipitated solids were filtered to obtain the title compound (4.1 g, 74%).

reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-amino-6-chloro-nicotinic acid | 27 mmol, 6.3 g | NC1=C(C(=O)O)C=CC(=N1)Cl | C6H5ClN2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Amino-6-chloro-nicotinic acid ethyl ester | 4.1 g, 74% | C(C)OC(C1=C(N=C(C=C1)Cl)N)=O | C8H9ClN2O2
